*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/CH(-55to125[deg])/2.70e-03[uF]/100[V]
* Murata P/N :GCM2162C2A272JA01
* Property : C = 2.70e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2162C2A272JA01 Port1 Port2
C01 Port1 N01 2.73e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 2.60e-10
R03 N02 N03 1.00e-02
L04 N03 N04 7.89e-11
R04 N03 N04 2.64e-01
L05 N04 N05 4.80e-11
R05 N04 N05 1.33e-02
C06 N05 N06 1.44e-08
L06 N05 N06 2.06e-11
R06 N05 N06 2.56e-01
C07 N06 N07 3.08e-09
L07 N06 N07 3.79e-11
R07 N06 N07 4.41e-01
C08 N07 N08 2.66e-12
L08 N07 N08 1.03e-10
R08 N07 N08 1.00e+05
C09 N08 Port2 1.23e-11
L09 N08 Port2 2.22e-11
R09 N08 Port2 6.61e-01
.ENDS GCM2162C2A272JA01
